US09422281B2
A reaction vial was charged with (S)-3-(7-bromo-3-methyl-3,4-dihydroquinoxalin-1(2H)-yl)benzo[d]isoxazole (10.33 mg, 0.03 mmol) and 1,2-dichloroethane (0.30 mL). N,N-Diisopropylethylamine (0.026 mL, 0.150 mmol) and acetyl chloride (6.4 μl, 0.090 mmol) were added, and the mixture stirred at 50° C. for 1.5 h. The reaction was diluted with ethyl acetate and washed with brine. The aqueous layer was separated and washed with ethyl acetate, and the combined organic layers were concentrated under a stream of nitrogen to afford (S)-1-(4-(benzo[d]isoxazol-3-yl)-6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.012 g, 0.03 mmol) which was used without purification. MS (ESI, pos. ion) m/z 386

reactant | (S)-3-(7-bromo-3-methyl-3,4-dihydroquinoxalin-1(2H)-yl)benzo[d]isoxazole | 0.03 mmol, 10.33 mg | BrC1=CC=C2N[C@H](CN(C2=C1)C1=NOC2=C1C=CC=C2)C | C16H14BrN3O
reactant | 1,2-dichloroethane | 0.30 mL | ClCCCl | C2H4Cl2
reactant | N,N-Diisopropylethylamine | 0.150 mmol, 0.026 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.090 mmol, 6.4 μl | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(4-(benzo[d]isoxazol-3-yl)-6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.03 mmol, 0.012 g | O1N=C(C2=C1C=CC=C2)N2C[C@@H](N(C1=CC=C(C=C21)Br)C(C)=O)C | C18H16BrN3O2
